US09403798B2
tert-Butyl 4-(4-fluorophenyl)-4,7-diazaspiro[2.5]octane-7-carboxylate
To a toluene solution (2.0 mL) of tert-butyl 4,7-diazaspiro[2.5]octane-7-carboxylate hydrochloride (100 mg, 0.402 mmol), 1-fluoro-4-iodobenzene (446 mg, 2.01 mmol), sodium tert-butoxide (77.3 mg, 0.804 mmol), and bis(tri-tert-butylphosphine)palladium (0) (41.1 mg, 0.0804 mmol) were added and the resultant mixture was stirred at 110° C. for 1 hour and 30 minutes. After completion of the reaction, the reaction solution was purified by silica gel column chromatography (hexane/ethyl acetate=1/0→4/1) to obtain the title compound (116 mg, yield 94%).

reactant | tert-butyl 4,7-diazaspiro[2.5]octane-7-carboxylate hydrochloride | 0.402 mmol, 100 mg | Cl.C1CC12NCCN(C2)C(=O)OC(C)(C)C
reactant | 1-fluoro-4-iodobenzene | 2.01 mmol, 446 mg | FC1=CC=C(C=C1)I | C6H4FI
reactant | sodium tert-butoxide | 0.804 mmol, 77.3 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0804 mmol, 41.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-(4-fluorophenyl)-4,7-diazaspiro[2.5]octane-7-carboxylate | 116 mg, yield 94% | FC1=CC=C(C=C1)N1C2(CC2)CN(CC1)C(=O)OC(C)(C)C | C17H23FN2O2
